US07745475B2
3-{-4-[(Dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
To a solution of 3-{2-chloro-4-[(dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (1.0 g, 1.9 mmol) in methanol (20 mL) and THF (20 mL) was added triethylamine (1.5 mL) and 10% palladium on carbon (100 mg). The resulting mixture was stirred under an atmosphere of hydrogen for 20 hours. The mixture was filtered through Celite® and evaporated under reduced pressure. The residue was dissolved in DCM (100 mL) and washed with 2M hydrochloric acid (100 mL). The organic phase was separated and the aqueous reextracted with DCM (100 mL). The combined organic extracts were dried (MgSO4) and evaporated to afford the title compound (300 mg, 32%).

reactant | 3-{2-chloro-4-[(dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 1.9 mmol, 1.0 g | ClC1=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC)C)C=CC(=C1)S(=O)(=O)N(C)C | C23H27ClN4O6S
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3-{-4-[(Dimethylamino)sulfonyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 300 mg, 32% | CN(S(=O)(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC)C)C=C1)C | C23H28N4O6S
